US04193999
A. 1,2-Di-O-(n-hexadecyl)-3-O-(3-azido-2-hydroxypropyl)-glycerol
A solution of sodium azide (0.5 g., 7.7 mmoles) in water (5 ml.) was added to a refluxing solution of 1,2-di-O-(n-hexadecyl)-3-O-(2,3-epoxypropyl)-glycerol (3.3 g., 5.5 mmoles) in 1,4-dioxane (100 ml.), and the resulting solution stirred at reflux for 16 hours. Since the reaction was not yet complete, additional sodium azide (0.5 g., 7.7 mmoles) was added and the reaction stirred at reflux for another 16 hours. The reaction solution was then cooled, concentrated in vacuo, diluted with water (100 ml.) and extracted with ether (3×100 ml.). The combined ether extract was washed with water (100 ml.), dried (MgSO4), filtered and evaporated in vacuo to an oil which solidified on standing [2.2 g., 62% yield, ir (CHCl3) 2105 cm-1 ].

reactant | sodium azide | 7.7 mmoles, 0.5 g | [N-]=[N+]=[N-].[Na+]
reactant | 1,2-di-O-(n-hexadecyl)-3-O-(2,3-epoxypropyl)-glycerol | 5.5 mmoles, 3.3 g | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)COCC1CO1 | C38H76O4
reactant | sodium azide | 7.7 mmoles, 0.5 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1,2-Di-O-(n-hexadecyl)-3-O-(3-azido-2-hydroxypropyl)-glycerol | 62% yield | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)COCC(CN=[N+]=[N-])O | C38H77N3O4
